US04220644
7-Amino-3-(1-carboxymethyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid was prepared as described in Example 17 from reaction of 1-carboxymethyltetrazole-5-thiol and 7-aminocephalosporanic acid.

reactant | 1-carboxymethyltetrazole-5-thiol | C(=O)(O)CN1N=NN=C1S | C3H4N4O2S
reactant | 7-aminocephalosporanic acid | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
product | 7-Amino-3-(1-carboxymethyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)C(CC(=O)O)SC2=NN=NN2)C(=O)O)C1=O | C11H12N6O5S2
